US04753934
4-Amino-β-(4-bromophenyl)-3,5-dibromo-cinnamic acid morpholide
This compound was prepared from 4-amino-β-(4'-bromophenyl)-3,5-dibromo-cinnamic acid (isomer ratio A:B=1.5:1), ethyl chloroformate, triethylamine and morpholine analogous to Example 3.

reactant | 4-amino-β-(4'-bromophenyl)-3,5-dibromo-cinnamic acid | NC1=C(C=C(C(=CC(=O)O)C2=CC=C(C=C2)Br)C=C1Br)Br | C15H10Br3NO2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-Amino-β-(4-bromophenyl)-3,5-dibromo-cinnamic acid morpholide | NC1=C(C=C(C(=CC(=O)N2CCOCC2)C2=CC=C(C=C2)Br)C=C1Br)Br | C19H17Br3N2O2
